US08492582B2
4-(Tert-butyldimethylsilyloxy)piperidine (0.23 g), cesium carbonate (0.44 g), tris(dibenzylideneacetone)dipalladium(0) (9.8 mg), 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl (26 mg), and palladium(II) acetate (4.8 mg) were added to a toluene (4.5 mL) solution of tert-butyl 2-(2-(benzyloxy)-5-bromobenzamido)-4-phenylbenzoate (0.30 g), followed by heating to reflux under a nitrogen atmosphere for 4 hours and 30 minutes. The reaction mixture was cooled to room temperature, and water and ethyl acetate were added thereto. The insoluble substance was removed by filtration. The organic layer was separated, washed with saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [Kanto Chemical Co., Inc., silica gel 60 (spherical), eluent: 100-90% hexane/ethyl acetate] to obtain 0.32 g of tert-butyl 2-(2-(benzyloxy)-5-(4-(tert-butyldimethylsilyloxy)piperidin-1-yl)benzamido)-4-phenylbenzoate.

reactant | 4-(Tert-butyldimethylsilyloxy)piperidine | 0.23 g | [Si](C)(C)(C(C)(C)C)OC1CCNCC1 | C11H25NOSi
reactant | cesium carbonate | 0.44 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl | 26 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
reactant | tert-butyl 2-(2-(benzyloxy)-5-bromobenzamido)-4-phenylbenzoate | 0.30 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)Br | C31H28BrNO4
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 9.8 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | palladium(II) acetate | 4.8 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | toluene | 4.5 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 2-(2-(benzyloxy)-5-(4-(tert-butyldimethylsilyloxy)piperidin-1-yl)benzamido)-4-phenylbenzoate | 0.32 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)N1CCC(CC1)O[Si](C)(C)C(C)(C)C | C42H52N2O5Si
